US06982348B2
2) 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propan-1-ol
To a solution of 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propane-1-one (9.11 g, 41.4 mmol) in methanol (50 ml) was added sodium borohydride (0.76 g, 20 mmol) by small portions under ice-cooling and the mixture was stirred at room temperature for 1 hr. The reaction solution was diluted with water, and extracted twice with ethyl acetate. The recovered organic layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=9/1-3/1) to give the objective substance.

reactant | 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propane-1-one | 41.4 mmol, 9.11 g | FC(C(=O)C1=CC(=CC=C1)C)(C(F)F)F | C10H8F4O
reactant | sodium borohydride | 20 mmol, 0.76 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | O | H2O
product | 2,2,3,3-tetrafluoro-1-(3-methylphenyl)propan-1-ol | FC(C(O)C1=CC(=CC=C1)C)(C(F)F)F | C10H10F4O
